US04097441
Methyl 4-hydroxy-α-oxo-6H-thieno[2,3-b]-thiopyran-5-acetate.
A mixture of sodium methoxide (21.6 g, 0.4 mole) and dimethyloxalate (47.2 g, 0.4 mole) in benzene (300 ml) is refluxed for 5 min. in order to dissolve most of the solid. To the cooled solution is added a solution of 5,6-dihydro-4H-thieno[2,3-b]-thiopyran-4-one (34 g, 0.2 mole) in benzene (300 ml) and the mixture is stirred for 3 hrs. to give a yellow suspension. The mixture is poured into ice-water mixture (1750 ml). After separating the aqueous layer from the benzene layer, the benzene layer is extracted with 1(N) NaOH solution (250 ml), and the combined aqueous solution is washed once with ether (100 ml) and acidified with (N) HCl. The yellow crystalline glyoxalate is filtered off and dried over P2 O5 to give 45.8 g (91%) of the desired product; m.p. 53°-56° C. IR (CHCl3) 3120-3040 (b, OH), 1735 (C=O), 1605 (C=C--C=O) cm-1. NMR (CDCl3) δ 10.6 (s, 1, OH, exchangeable); 7.35 (d, 1, C2); 7.05 (d, 1, C3); 4.4 (s, 2, C6); 3.9 (s, 3, OCH3). λmaxEtOH 320 (5,600), 238 (10,800) mμ

reactant | sodium methoxide | 0.4 mole, 21.6 g | C[O-].[Na+]
reactant | dimethyloxalate | 0.4 mole, 47.2 g | COC(C(=O)OC)=O | C4H6O4
reactant | 5,6-dihydro-4H-thieno[2,3-b]-thiopyran-4-one | 0.2 mole, 34 g | S1C=CC2=C1SCCC2=O | C7H6OS2
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | Methyl 4-hydroxy-α-oxo-6H-thieno[2,3-b]-thiopyran-5-acetate | 45.8 g, 91% | OC=1C2=C(SCC1C(C(=O)OC)=O)SC=C2 | C10H8O4S2
